US07713994B2
2-(1-Methoxy-ethyl)-1-(4-nitro-benzyl)-pyrrolidine
2-(1-methoxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 4.4 mmol) in CH2Cl2 (25 mL) is cooled to 0° C. and TFA (2.5 mL) is added dropwise. The mixture is allowed to stir at room temperature overnight. The volatiles were removed and CH3CN (20 mL) is added. After addition of 4-nitrobenzyl bromide (1.25 g, 5.78 mmol) and K2CO3 (2.0 g, 14.4 mmol) the mixture is stirred at room temperature for 5 hours. Aqueous workup followed by chromatography. (260 mg, 25%). 1H NMR (300 MHz, CDCl3) ∂8.17 (2H, d, J=8.7 Hz), 7.51 (2H, d, J=8.4 Hz), 4.29 (1H, d, J=14.4 Hz), 3.48 (1H, d, J=14.4 Hz), 3.30-3.33 (1H, m), 3.32 (3H, s), 2.88-2.91 (1H, m), 2.73-2.78 (1H, m), 2.14-2.19 (1H, m), 1.61-1.85 (4H, m), 1.15 (3H, d, J=6.6 Hz).

reactant | 2-(1-methoxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.4 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(C)OC | C12H23NO3
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-nitrobenzyl bromide | 5.78 mmol, 1.25 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | K2CO3 | 14.4 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-Methoxy-ethyl)-1-(4-nitro-benzyl)-pyrrolidine | COC(C)C1N(CCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H20N2O3
